US07960419B2
Using a similar procedure to that of Preparation IX-2, but using 1.5 equivalents of potassium t-butoxide and 1.5 equivalents of acetonitrile per 1 equivalent of 3,4-dichlorobenzonitrile, there is obtained 3-amino-3-(3,4-dichlorophenyl)acrylonitrile.

reactant | potassium t-butoxide | 1.5 equivalents | CC(C)([O-])C.[K+]
reactant | acetonitrile | 1.5 equivalents | C(C)#N | C2H3N
reactant | 3,4-dichlorobenzonitrile | 1 equivalent | ClC=1C=C(C#N)C=CC1Cl | C7H3Cl2N
product | 3-amino-3-(3,4-dichlorophenyl)acrylonitrile | NC(=CC#N)C1=CC(=C(C=C1)Cl)Cl | C9H6Cl2N2
